US05422358
Preparation of 3-(R, S)-(1-Cyano-1,1-diphenylmethyl)-1-(4-carbamoylphenethyl)piperidine
A mixture containing 3-(R,S)-(1-cyano-1,1-diphenylmethyl)piperidine (0.303 g), 4-carbamoylphenethyl bromide (0.275 g--see Preparation 5), anhydrous potassium carbonate (0.4 g) and acetonitrile (10 ml) was heated under reflux for 5 hours. The mixture was concentrated in vacuo and the residue partitioned between dichloromethane (50 ml) and 10% aqueous potassium carbonate (50 ml). The layers were separated and the aqueous layer extracted with dichloromethane (3×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with dichloromethane containing methanol (5%). The product-containing fractions were combined and concentrated inn vacuo to give the title compound as a gum, yield 0.065 g.

reactant | 3-(R,S)-(1-cyano-1,1-diphenylmethyl)piperidine | 0.303 g | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCCC1 | C19H20N2
reactant | 4-carbamoylphenethyl bromide | 0.275 g | C(N)(=O)C1=CC=C(CCBr)C=C1 | C9H10BrNO
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(R, S)-(1-Cyano-1,1-diphenylmethyl)-1-(4-carbamoylphenethyl)piperidine | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CCC1)CCC1=CC=C(C=C1)C(N)=O | C28H29N3O
